US04094921
Five grams, 9.6 cc, of HZSM-5 having a crystallite size of 0.02 to 0.05 microns, were pressed into wafers, crushed and sized to 14-20 mesh size particles. These particles were uniformly diluted with 4 volumes of low surface area quartz of the same size and tested for ability to alkylate toluene with ethylene to yield ethyltoluene. Since the limiting reactant was ethylene, the maximum theoretical conversion of toluene was about 25 percent. The conditions of reaction and results are shown in Table I below.

reactant | ethylene | C=C | C2H4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyltoluene | C(C)C1=C(C=CC=C1)C | C9H12
